US07915271B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-{[3′-pyrrolidin-1-yl-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one
A mixture of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)-benzyl]-4-methyl-1,3-oxazolidin-2-one (0.05 g, 0.084 mmol), 3-(pyrrolidino)phenyl boronic acid (0.032 g, 0.167 mmol), tetrakis(triphenylphosphine) palladium (5% mol) and sodium carbonate (0.019 g, 0.18 mmol) in 7 ml of water/EtOH/toluene (1:2:4) was heated to reflux for 4 h. TLC (EtOAc:hexane/1:1) showed that the reaction was over. The solvents were removed. Water (10 ml) was added. The organic was extracted with methylene chloride (3×10 ml). The combined methylene chloride layers were washed with brine, and dried over sodium sulfate. The title compound was obtained after flash column using EtOAc:hexane/6:4 as the eluant. LC-MS (M+1): 617.0.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethyl)-benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.084 mmol, 0.05 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I)C)(F)F | C20H13F9INO2
reactant | 3-(pyrrolidino)phenyl boronic acid | 0.167 mmol, 0.032 g | N1(CCCC1)C=1C=C(C=CC1)B(O)O | C10H14BNO2
reactant | sodium carbonate | 0.18 mmol, 0.019 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water EtOH toluene | 7 ml | O.CCO.C1(=CC=CC=C1)C
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-{[3′-pyrrolidin-1-yl-4-(trifluoromethyl)biphenyl-2-yl]methyl}-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1)N1CCCC1)C)(F)F | C30H25F9N2O2
